US04689427
185 mg of (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol are dissolved in 5 ml of methanol and the solution is subsequently diluted with 5 ml of water. Thereupon, Raney-nickel is added and the mixture is heated at reflux under hydrogen for 2 hours. After the hydrogen uptake has finished the mixture is filtered, the filter residue is washed with methanol and methylene chloride and the combined filtrate and washings are concentrated on a rotary evaporator. Residual water is distilled off azeotropically by the addition of methylene chloride. The oil obtained is recrystallized from n-hexane/diethyl ether and there are obtained 161 mg of 55% (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol (48% yield; GC analysis of the acetonide). Data of the pure substance: M.p. 86°-87° C.; [α]D20 +2.55° (c=5.3% in CHCl3).

reactant | (2R,3R)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2,3-epoxy-2-methylbutanol | 185 mg | COC1=C(C(=C(C(=C1C)C)OC)C)C[C@@H]1[C@](CO)(C)O1 | C16H24O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
solvent | water | 5 ml | O | H2O
catalyst | Raney-nickel | [Ni] | Ni
product | (S)-4-(2',5'-dimethoxy-3',4',6'-trimethylphenyl)-2-methyl-1,2-butanediol | 161 mg, 55% | COC1=C(C(=C(C(=C1C)C)OC)C)CC[C@@](CO)(O)C | C16H26O4
